Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
ICU stay, 
Hemodialysis with RIJ HD line placement

 
History of Present Illness:
___ yo F PMHx L3/4 discitis on vancomycin/cefepie presents from 
rehab with altered mental status, found to have cefepime 
toxicity secondary to ___ complicated by nonconvulsive status 
epilepticus.  
Ms. ___ was initially admitted to ___ 
___ on ___ with right hip pain. A lumbar spine 
MRI demonstrated severe degenerative joint disease and discitis 
at the level of L3-L4. Patient underwent CT guided biopsy, 
however cultures did not grow an organism. ID was consulted, and 
she was started on Vancomycin and Cefepime with plans for a 
course ending ___.  
Patient was discharged to rehab ___, was put on standing 
ibuprofen, and was transferred to Epoch ___ as the family felt 
she was not progressing in therapy and they were also concerned 
that patient had developed mild confusion.  
At Epoch, she was evaluated by the ___ MD ___ who noted that 
she was very mildly confused but animated and alert. Per 
records, patient had become increasingly confused over the past 
two days. Her Cr was noted to have increased to 2.9 on ___ with 
BUN of 45 from 0.9 the week prior. A foley was placed due to 
concern for retention and 600cc of urine were removed. Despite 
this, patient continued to have poor urine output and developed 
worsening confusion, twitching, myoclonus, and weakness. There 
was concern for cefepime toxicity, and her cefepime was dose 
reduced to 1gm q12h on ___. Vancomycin was held on ___ due to 
worsening renal function. Of note, Vanc trough ___ was 18 and 
20.6 on ___. Over the past two days, she has also developed a 
new oxygen requirement. Given progressive lethargy and decline 
in mental status, she was referred to the ED.  
In the ED, initial vitals were: 97.8 92 119/73 18 95% 3L. Labs 
were significant for BUN/Cr 49/3.0, anion gap of 15, albumin 
2.8, H/H 9.8/27.9 stable from 9.1/27.5 on ___, normal liver 
chemistries. Imaging revealed no acute intracranial process and 
left pleural effusion + atelectasis. The patient was given 1g 
vancomycin (vancomycin level 32), 1L NS and 500 mg azithromycin 
for pneumonia. She was noted to be minimally responsive, only 
withdrawing to painful stimuli in the ED, which was a 
progressive change from earlier in the evening. Vitals prior to 
transfer were HR 93, 113/71, 18 95% 3L.  
Upon arrival to the ___, she only withdrew to light shined in 
her eye and moans to painful stimuli. Family shared that her 
decline has been progressive from their perspective over the 
past two weeks. Two weeks ago she had a brief trip away from 
rehab, which was a rough time, during which she was shaking and 
spilling her cup as well as acting confused. Since then, there 
have been good and bad days. On ___ they noted that she had been 
having trouble holding her fork, dropping things. On ___, the 
patient was speaking in gibberish and was twitching. She told 
her family that she was quite thirsty on ___. Patient had RASS 
-4 on Medicine floor. She had a 20 minute EEG with page to 
Medicine resident at 17:00 with read concerning for status 
epilepticus. In discussion with floor team, Neurology, and 
Nephrology, patient’s code status was reversed from DNR/DNI with 
hope to avoid dialysis to DNR and okay to intubate and perform 
HD with hope that her mental status could improve with HD/AEDs 
to reverse status epilepticus and cefepime toxicity.  

 
Past Medical History:
 Subdural hematoma s/p burrhole in ___ in setting of fall off 
bike onto railroad tracks  
- Hypertension  
- Osteoarthritis  
- Zoster infection in ___  

 
Social History:
___
Family History:
 Son passed away due to "choking episode" per ___. ___ 
records 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==============================
Vitals: 97.6 117/87 91 14 95% 3L
General: obtunded, withdraws to light in her eyes and painful 
stimuli
HEENT: Sclera anicteric, MM dry, Pupils are ~3-4 mm and reactive 
equally
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2
Lungs: decreased air entry at left base, mild ronchi vs rales at 
left base
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: 4 beats of clonus in ankles, low frequency twitching in 
arms when extended at elbow, unable to appreciate hyperreflexia, 
occasional myoclonic jerks but only after moving a limb

DISCHARGE PHYSICAL EXAM:
==============================
Vitals: 97.8 129/61 79 16 100 on 4L 99RA.
IO: inc
Geneeral: Pleasant, cooperative, speaks fluently in ___ and 
___, Follows simple commands.
HEENT: Sclera anicteric, MMM, Pupils reactive b/l
Neck: Supple, JVP not elevated, RIJ bandaged, HD line removed. 
CV: Regular rate and rhythm, normal S1 + S2, no m/r/g
Lungs: No tachypnea, bibasilar rales
Abdomen: Soft, non-tender, non-distended, no organomegaly, no 
rebound or guarding
GU: foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
NEURO: MAE, no focal deficits. 

 
Pertinent Results:
ADMISSION LABS: 
===========================
___ 07:45PM BLOOD WBC-8.7 RBC-2.97* Hgb-9.8* Hct-27.9* 
MCV-94 MCH-32.9* MCHC-35.0 RDW-12.3 Plt ___
___ 07:45PM BLOOD Neuts-80.7* Lymphs-10.7* Monos-6.9 
Eos-0.9 Baso-0.8
___ 04:40AM BLOOD ___ PTT-36.5 ___
___ 07:45PM BLOOD Glucose-142* UreaN-49* Creat-3.0* Na-136 
K-3.8 Cl-104 HCO3-17* AnGap-19
___ 07:45PM BLOOD ALT-16 AST-18 AlkPhos-84 TotBili-0.2
___ 07:45PM BLOOD Albumin-2.8*
___ 06:44AM BLOOD Calcium-8.7 Phos-4.8* Mg-1.8
___ 06:44AM BLOOD cTropnT-0.05*
___ 12:16AM BLOOD cTropnT-0.05*
___ 04:40AM BLOOD CK-MB-3 cTropnT-0.05*
___ 06:44AM BLOOD Vanco-32.5*
___ 12:16AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:44AM BLOOD cTropnT-0.05*
___ 12:16AM BLOOD cTropnT-0.05*
___ 04:40AM BLOOD CK-MB-3 cTropnT-0.05*

STUDIES
+ ___ ECHO: 
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (biplane LVEF 66%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.
IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild 
pulmonary artery hypertension. Increased PCWP. No valvular 
pathology or pathologic flow identified.

+ ___ Renal U/S:IMPRESSION:  
Essentially normal renal ultrasound with bilateral simple cyst. 
No evidence of hydronephrosis. 

+ CONTINUOUS EEG RECORDING: Began at 16:51 on the afternoon of ___ 
___ and
continued through 7:00 the following morning. From the 
beginning, it showed
very rhythmic generalized, frontally predominant sharp and slow 
wave
discharges recurring with a frequency of about 2.3 Hz. On video, 
there were
no clear signs of seizures such as focal motor jerking or 
blinking, but there
were independent reports of sporadic myoclonus. A diagnosis of 
non-convulsive
status epilepticus was made and communicated to the clinical 
team. There was
a marketed diminution in sharp wave discharges at about 19:45, 
likely the
result of medication administration. At that point, the 
background was a
slow, ___ Hz frequency in most areas with irregular and 
infrequent bursts of
generalized slowing or generalized sharp waves.
Of note, one pushbutton activation at 19:45 for the 
administration of 1
mg of lorazepam; another at 19:55 reported the beginning of the 
administration
of 500 mg of phenytoin. In the last half hour of the recording, 
the
background frequency improved to about 6 Hz posteriorly. 
Nevertheless,
rhythmic sharp wave activity recurred at 6:50 following morning, 
and a
pushbutton activation at that point reported the administration 
of 1 mg
lorazepam. Within a minute, the sharp waves ceased.
SPIKE DETECTION PROGRAMS: Showed the same high voltage sharp 
wave discharges
described above.
SEIZURE DETECTION PROGRAMS: Showed some of the rhythmic sharp 
waves described
earlier.
PUSHBUTTON ACTIVATIONS: There were six, three of which are 
described above.
Another at 21:33 was for the administration of medication. There 
were no
changes in the EEG at this time or for the rest of the 
pushbutton activations
until the final one at 6:50. At 23:22, there was concern about 
posturing, but
the EEG did not change at that time.
SLEEP: No normal waking or sleep patterns were evident.
CARDIAC MONITOR: Showed a generally regular rhythm.
IMPRESSION: This telemetry captured six pushbutton activations, 
as described
above. The beginning of the record showed very rhythmic sharp, 
high voltage
epileptiform discharges strongly suggestive of non-convulsive 
status
epilepticus. This responded quickly to low doses of lorazepam 
leaving a very
encephalopathic record. There were no prominent focal 
abnormalities but
encephalopathies may obscure focal findings. The discharges 
recurred at 6:50
and were treated promptly, again successfully.

DISCHARGE LABS: 
==========================
___ 05:42AM BLOOD WBC-7.9 RBC-2.69* Hgb-8.8* Hct-25.7* 
MCV-95 MCH-32.8* MCHC-34.3 RDW-13.0 Plt ___
___ 05:42AM BLOOD Glucose-102* UreaN-11 Creat-2.9* Na-140 
K-3.5 Cl-100 HCO3-31 AnGap-13
___ 05:29AM BLOOD WBC-6.6 RBC-2.58* Hgb-8.4* Hct-25.0* 
MCV-97 MCH-32.5* MCHC-33.6 RDW-12.9 Plt ___
___ 05:29AM BLOOD Plt ___
___ 05:29AM BLOOD Glucose-90 UreaN-25* Creat-4.1* Na-140 
K-3.4 Cl-102 HCO3-27 AnGap-___ on treatment for for discitis with vancomycin and cefepime, 
presented with progressive decline in mental status and found to 
be in non-convulsive status epilepticus, thought secondary to 
cefepime toxicity with nonconvulsive status epilepticus from 
NSAID-induced ___. 

# Altered Mental Status: Patient presented with altered mental 
status, myoclonus in the setting of cefepime use and acute renal 
failure. EEG on admission showed non-convulsive status 
epilepticus, a known complication of toxic levels of cefepime 
which can develop with renal failure. She was given 1mg of 
lorazepam, loaded with phenytoin and keppra which broke her 
seizure activity. She underwent hemodialysis with clearance of 
her mental status. She became alert and conversant with her 
family. Given that her seizures were thought to be a medication 
adverse effect and not from an underlying of seizure disorder, 
anti-epileptic medications were discontinued. 

# Acute Kidney Injury: Likely secondary to pre-renal secondary 
to NSAIDs/poor PO intake/vancomycin toxicity.  Urine chemistries 
on admission showed some evidence of acute tubular necrosis and 
poor sodium avidity.  Renal ultrasound unremarkable for 
post-renal pathology. Given patient experience of toxic side 
effect of cefepime, hemodialysis was initiated to help clear 
cefepime. She underwent multiple HD sessions with improvement in 
her mental status. Between sessions she had stable electrolytes 
but did have evidence of volume overload and rising creatinine. 
She continued to have ongoing renal function with ongoing urine 
output during admission. Given the stress of HD and evidence of 
persistent renal function, decision was made to not initiate 
long term hemodialysis. While hospitalized she was clinically 
monitored assessing her regularly for need for HD. Her last HD 
session was on ___ on day of discharge she had no need for HD. 
Her electrolytes were stable (except for elevated creatinine), 
she had ongoing urine output with stable oxygen requirement.

# Recent Diskitis: Ms. ___ was initially admitted to 
___ on ___ with right hip pain. A 
lumbar spine MRI demonstrated severe degenerative joint disease 
and discitis at the level of L3-L4. Patient underwent CT guided 
biopsy, however cultures did not grow an organism. ID was 
consulted, and she was started on Vancomycin and Cefepime with 
plans for a course ending ___. 
Obtained biopsy results from ___. E'___. Biospy was negative for 
growth. No antibiotics were given during hospitalization and 
patient had no evidence of infection.

# Anemia: Noted on admission, thought likely anemia of chronic 
disease from ?osteomyelitis/diskitis, versus anemia from CKD. 
Blood counts were stable during admission.

# Goals of Care: Patient has DNR/DNI form signed; family is very 
clear on pt's desire for conservative measures ruling out long 
term hemodialysis. At discharge her renal recovery was unclear. 
She had evidence of severely depressed renal function but with 
residual function. Given her unhappiness with medical setting 
decision was made to transfer to rehab with close geriatric 
followup while in rehab with possible transition to hospice care 
if she showed signs decline from renal failure.

TRANSITIONAL: 
- CXR ___: Asymmetric right upper lobe subpleural opacity but 
warrants re-evaluation with well positioned PA, lateral and 
apical lordotic radiographs, prior to discharge the to exclude 
active infection or malignancy. This was not done as it was felt 
that it was not within the patient's goals of care. If Goals of 
care change would recommend repeat CXR. 
- Would recommend transition to hospice (at home or at rehab) if 
patient declines from signs of renal failure
- can consider periodic monitoring of renal function going 
forward, with above goals of care in mind regarding need/desire 
for HD
- patient was not discharged on antibiotics as completed course 
for osteomyelitis
- patient was not discharged on anti-epileptics as presentation 
was thought to be secondary to cefepime toxicity and not 
intrinsic seizure disorder.

# CODE STATUS:  Do not resuscitate (DNR/DNI) NO ICU TRANSFER, NO 
BIPAP
# CONTACT:  ___ (granddaughter, HCP) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rhinocort Nasal Inhaler 1 spray Other BID 
2. Docusate Sodium 100 mg PO BID 
3. Mirtazapine 7.5 mg PO QHS 
4. Amlodipine 5 mg PO DAILY 
5. Polyethylene Glycol 17 g PO DAILY 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Senna 8.6 mg PO BID:PRN Constipation 
8. Vancomycin 1000 mg IV Q 24H 
9. CefePIME 1 g IV Q24H 
10. Gabapentin 100 mg PO BID 
11. Ibuprofen 400 mg PO TID:PRN Pain 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Polyethylene Glycol 17 g PO DAILY 
3. Senna 8.6 mg PO BID:PRN Constipation 
4. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
5. Bisacodyl ___AILY:PRN Constipation 
6. Lidocaine 5% Patch 1 PTCH TD QAM 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Acute Renal Failure, Cefepime Toxicity, Non-convulsive 
status epilepticus
SECONDARY: Anemia, Osteomyelitis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure meeting you and taking care of you. You were 
admitted with renal failure and seizure activity that we thought 
was caused by a build up of a medication called cefepime in your 
blood. We gave you medications to treat your seizures, which 
resulted in an improvement in your mental state. We also 
performed hemodialyssis to help clear cefepime and support you 
while we gave your kidneys time to recover. Your kidneys showed 
some improvement but have not improved to your previous 
baseline. Given your desire to lead non-medicalized life that 
focused on your comfort and dignity, we are transferring you to 
a rehabilitation facility where the geriatrics team can continue 
to follow you and we can continue to address your comfort. 

We wish you the best, 

Your ___ team 

 
Followup Instructions:
___